US09029361B2
Part D. Preparation of (8S,9aS)-8-[(5-cyclopropylpyrazin-2-yl)oxy]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one hydrochloride
To tert-butyl (8S,9aS)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate (254 mg, 0.654 mmol, Part C) in methanol/dichloromethane (1:1, 1 mL) was added 4 N HCl solution in dioxane (3 mL). The mixture was stirred at room temperature for three hours and then concentrated to give 212 mg (100% yield) of the title compound as a solid which was used without purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.82 (m, 2H), 0.96 (m, 2H), 2.10 (m, 2H), 2.66 (m, 1H), 3.10 (m, 3H), 3.40 (m, 2H), 3.65 (m, 2H), 4.22 (m, 1H), 4.40 (m, 1H), 5.38 (m, 1H), 8.15 (d, J=1 Hz, 1H), 8.19 (d, J=1 Hz, 1H), 9.38 (br s, 1H), 9.50 (br s, 1H); MS (ESI) m/z 289.0 (M+H)+.

reactant | tert-butyl (8S,9aS)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | 0.654 mmol, 254 mg | C1(CC1)C=1N=CC(=NC1)O[C@H]1C[C@@H]2N(C(CCN(C2)C(=O)OC(C)(C)C)=O)C1 | C20H28N4O4
reactant | HCl | 4 N | Cl | ClH
solvent | methanol dichloromethane | 1 mL | CO.ClCCl
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (8S,9aS)-8-[(5-cyclopropylpyrazin-2-yl)oxy]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one hydrochloride | 212 mg, 100% yield | Cl.C1(CC1)C=1N=CC(=NC1)O[C@H]1C[C@@H]2N(C(CCNC2)=O)C1 | InChI=1S/C15H20N4O2.ClH/c20-15-3-4-16-6-11-5-12(9-19(11)15)21-14-8-17-13(7-18-14)10-1-2-10;/h7-8,10-12,16H,1-6,9H2;1H/t11-,12-;/m0./s1
